US08278328B2
3-{1-[trans-4-(Ethyloxy)cyclohexyl]-4-piperidinyl}-5-methyl-1,3-benzoxazol-2(3H)-one hydrochloride. (E10)
Diisopropylethylamine (0.24 mL, 1.37 mmol) was added to a solution of 2-({1-[trans-4-(ethyloxy)cyclohexyl]-4-piperidinyl}amino)-4-methylphenol (D29, 215 mg, 0.648 mmol) in dichloromethane (8 mL) at rt under argon. The reaction was cooled to 0° C. and the triphosgene (79 mg, 0.267 mmol) was added. The mixture was stirred for 30 min at 0° C., followed by a further 15 min at rt. The reaction was quenched with saturated aqueous NaHCO3 (10 mL) and partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane (2×) and the combined organics were dried (Na2SO4) and concentrated by rotary evaporation to give a white solid. The residue was purified via chromatography (silica, dichloromethane to 0.5% ammonia/9.5% methanol/90% dichloromethane) to give the free base of the title compound as a white solid. The free base was dissolved in diethyl ether (1.5 mL) at 25° C. HCl (0.207 mL, 0.207 mmol, 1 M in diethyl ether) was then added and the reaction was stirred for 15 min. The solvent was removed by rotary evaporation to give 3-{1-[trans-4-(ethyloxy)cyclohexyl]-4-piperidinyl}-5-methyl-1,3-benzoxazol-2(3H)-one hydrochloride (E10, 39.3 mg, 14% yield) as a white solid.

reactant | Diisopropylethylamine | 1.37 mmol, 0.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-({1-[trans-4-(ethyloxy)cyclohexyl]-4-piperidinyl}amino)-4-methylphenol | 0.648 mmol, 215 mg | C(C)O[C@@H]1CC[C@H](CC1)N1CCC(CC1)NC1=C(C=CC(=C1)C)O | C20H32N2O2
reactant | triphosgene | 0.267 mmol, 79 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 3-{1-[trans-4-(Ethyloxy)cyclohexyl]-4-piperidinyl}-5-methyl-1,3-benzoxazol-2(3H)-one hydrochloride | Cl.C(C)O[C@@H]1CC[C@H](CC1)N1CCC(CC1)N1C(OC2=C1C=C(C=C2)C)=O | InChI=1S/C21H30N2O3.ClH/c1-3-25-18-7-5-16(6-8-18)22-12-10-17(11-13-22)23-19-14-15(2)4-9-20(19)26-21(23)24;/h4,9,14,16-18H,3,5-8,10-13H2,1-2H3;1H/t16-,18-;
